US04251655
A solution of 111.0 g (0.50 mole) of 4-biphenyl bromide in 200 ml of dry tetrahydrofuran (THF) was added slowly to a mixture of 12.10 g (0.5 gram-atom) of magnesium, 2 ml of ethylenedibromide and 200 ml of THF at such a rate as to maintain reflux. After addition the mixture was refluxed for 0.5 hours, cooled and treated over 0.5 hours with a solution of 82.3 g (0.45 mole) of 4-benzoylpyridine in 600 ml THF. The resulting slurry was stirred 0.5 hours at 25° C. and treated with 1000 ml 20% ammonium chloride solution. The organic layer was separated, filtered, the filtrate dried, filtered and stripped. The residue was triturated with ether and filtered. This solid was recrystallized from ethanol, chloroform, and finally toluene to give α-(1,4'-biphenyl)-yl-α-phenyl-4-pyridinemethanol as a white solid, m.p. after drying in vacuo at 70° C.; 173.5°-175.5° C.

reactant | 4-biphenyl bromide | 0.50 mole, 111.0 g | C1=CC=C(C=C1)C2=CC=C(C=C2)Br | C12H9Br
reactant | magnesium | 12.10 g | [Mg] | Mg
reactant | ethylenedibromide | 2 ml | C(CBr)Br | C2H4Br2
reactant | 4-benzoylpyridine | 0.45 mole, 82.3 g | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | ammonium chloride | 1000 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 600 ml | O1CCCC1 | C4H8O
solvent | THF | 200 ml | O1CCCC1 | C4H8O
product | α-(1,4'-biphenyl)-yl-α-phenyl-4-pyridinemethanol | C1(=C(C=CC=C1)C(O)(C1=CC=NC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO
